US06528068B1
Synthesis of N-lauroylvaline isopropyl ester
Forty-nine(49) grams of N-lauroylvaline and 197 g of isopropanol were charged into a 500-milliliter flask. Further, 1.61 g of conc. sulfuric acid were added as the catalyst. The mixture was heated under reflux for reaction for 6 hours.

reactant | N-lauroylvaline | C(CCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)O | C17H33NO3
reactant | sulfuric acid | 1.61 g | S(O)(O)(=O)=O | H2O4S
reactant | isopropanol | 197 g | C(C)(C)O | C3H8O
product | N-lauroylvaline isopropyl ester | C(C)(C)OC([C@@H](NC(CCCCCCCCCCC)=O)C(C)C)=O | C20H39NO3
